US06423730B1
Preparation of 2,4-bis-trifluoromethylthiazole-5-carboxylic acid chloride
To a 500 mL 1-neck RBF under N2 was added 2,4-bis-trifluoromethylthiazole-5-carboxylic acid (31.5 g, 1.0 equiv., 0.119 moles) in 25 mL chloroform and 1 mL dimethylformamide (DMF). To this solution was added thionyl chloride (28.3 g, 2.0 equiv., 0.24 moles). The reaction was then heated at reflux for 6 hours. The reaction was cooled to room temperature and concentrated by rotary evaporation at 30° C. to remove solvent. Chloroform was added, 3×25 mL portions, concentrating by rotary evaporation each time, to give 29.8 g (88.4% yield) product as a brown oil.

reactant | 2,4-bis-trifluoromethylthiazole-5-carboxylic acid | 0.119 moles, 31.5 g, 1.0 equiv. | FC(C=1SC(=C(N1)C(F)(F)F)C(=O)O)(F)F | C6HF6NO2S
reactant | thionyl chloride | 0.24 moles, 28.3 g, 2.0 equiv. | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2,4-bis-trifluoromethylthiazole-5-carboxylic acid chloride | 29.8 g, 88.4% yield | FC(C=1SC(=C(N1)C(F)(F)F)C(=O)Cl)(F)F | C6ClF6NOS
